### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Triangulated/Opposite): the opposite of a triangulated functor

### PR DESCRIPTION
**Pull request by smorel394**
A functor between pretriangulated categories is a triangulated functor if and only if its opposite is a triangulated functor.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Triangulated/Opposite.lean [hunk 1]
```diff
@@ -484,3 +491,177 @@ lemma map_distinguished_op_exact [HasShift C ℤ] [HasZeroObject C] [Preadditive
...
+
+/--
+If `F` commutes with shifts, so does `F.op`. This is a scoped instance.
+-/
+noncomputable scoped instance : CommShift F.op ℤ := commShiftOpInt F
+
+/-- If `F` is triangulated, so is `F.op`.
+We are using the commutation with shifts on `F.op` given by `Functor.commShiftOpInt`.
+-/
+lemma isTrianulatedOp_of_isTriangulated [F.IsTriangulated] : F.op.IsTriangulated where
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Triangulated/Opposite.lean:643]:
```suggestion
lemma isTriangulatedOp_of_isTriangulated [F.IsTriangulated] : F.op.IsTriangulated where
```

**Comment by joelriou** [comment]
As a prelude to this nice PR, could make another PR which just splits the quite long and slow file `Triangulated.Opposite` in three files:
* `Triangulated.Opposite.Basic`: just the shift on the opposite category + lemmas
* `Triangulated.Opposite.Triangle`: the equivalence `triangleOpEquivalence`
* `Triangulated.Opposite.Pretriangulated`: the pretriangulated structure
After this is merged, this PR would create a new file `Triangulated.Opposite.Functor`.

**Comment by smorel394** [comment]
#20316

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 2]
```diff
@@ -0,0 +1,208 @@
...
+open Category Limits Pretriangulated Opposite
+
+variable {C D : Type*} [Category C] [Category D] [HasShift C ℤ] [HasShift D ℤ]
+
+variable (F : C ⥤ D) [F.CommShift ℤ]
+
+/-- If `F` commutes with shifts, so does `F.op`, for the shifts chosen on `Cᵒᵖ` in
+`CategoryTheory.Triangulated.Opposite.Basic`.
+-/
+noncomputable def commShiftOpInt : @Functor.CommShift Cᵒᵖ Dᵒᵖ _ _ F.op ℤ _
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:35]: The file should start mostly as follows. The definition of the `CommShift` should be in the `Pretriangulated.Opposite` namespace so that it becomes automatically available when we `open Pretriangulated.Opposite`:
```lean
namespace CategoryTheory

variable {C D : Type*} [Category C] [Category D] [HasShift C ℤ] [HasShift D ℤ]
  (F : C ⥤ D) [F.CommShift ℤ]

namespace Pretriangulated.Opposite

noncomputable scoped instance commShiftOpInt : F.op.CommShift ℤ := by
  letI F' : OppositeShift C ℤ ⥤ OppositeShift D ℤ := F.op
  letI : F'.CommShift ℤ := F.commShiftOp ℤ
  apply F'.commShiftPullback

end Pretriangulated.Opposite

namespace Functor

noncomputable example : F.op.CommShift ℤ := inferInstance -- fails

open Pretriangulated.Opposite -- from now on, we have the shift on `Cᵒᵖ` and on `F.op`

noncomputable example : F.op.CommShift ℤ := inferInstance -- succeeds
```
Then, `letI` should no longer be necessary in the code below.

Comment (smorel394) [reply Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:35]: Wasn't sure how to manage the `CommShift` instance on `F.op`. I'll try this.

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 3]
```diff
@@ -0,0 +1,191 @@
...
+  ≪≫ Functor.associator _ _ _ ≪≫ isoWhiskerLeft (triangleOpEquivalence C).inverse
+  (Functor.associator _ _ _).symm ≪≫ isoWhiskerLeft _ (isoWhiskerRight
+  (triangleOpEquivalence_functor_naturality F).symm _) ≪≫ isoWhiskerLeft
+  (triangleOpEquivalence C).inverse (Functor.associator _ _ _) ≪≫ isoWhiskerLeft
+  (triangleOpEquivalence C).inverse (isoWhiskerLeft _ (triangleOpEquivalence D).unitIso.symm) ≪≫
+  isoWhiskerLeft _ (Functor.rightUnitor _)
+
+/-- If `F` is triangulated, so is `F.op`.
+-/
+lemma isTriangulatedOp_of_isTriangulated [F.IsTriangulated] : F.op.IsTriangulated where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:168]: I would suggest names like `isTriangulated_op` and `isTriangulated_of_op`.

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 4]
```diff
@@ -0,0 +1,191 @@
...
+  letI : F'.CommShift ℤ := F.commShiftOp ℤ
+  apply F'.commShiftPullback
+
+end Pretriangulated.Opposite
+
+namespace Functor
+
+open Category Limits Pretriangulated Opposite
+
+lemma oppositeCommShiftInt_iso_eq (n m : ℤ) (h : n + m = 0) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:43]: A better solution would be to start the file as:
```lean
namespace Pretriangulated.Opposite

abbrev commShiftOpIntAux : OppositeShiftAux C ⥤ OppositeShiftAux D := F.op

@[simps! iso]
noncomputable instance instCommShiftOpIntAux : (commShiftOpIntAux F).CommShift ℤ := by
  letI F' : OppositeShift C ℤ ⥤ OppositeShift D ℤ := F.op
  letI : F'.CommShift ℤ := F.commShiftOp ℤ
  apply F'.commShiftPullback

/-- If `F` commutes with shifts, so does `F.op`, for the shifts chosen on `Cᵒᵖ` in
`CategoryTheory.Triangulated.Opposite.Basic`.
-/
noncomputable scoped instance commShiftOpInt : F.op.CommShift ℤ :=
  inferInstanceAs ((commShiftOpIntAux F).CommShift ℤ)

end Pretriangulated.Opposite
```
(which requires defining `OppositeShiftAux` as an `abbrev`, not `private abbrev` in the `Basic` lean.)
Then, we can do
```lean
lemma oppositeCommShiftInt_iso_eq (n m : ℤ) (h : n + m = 0) :
    F.op.commShiftIso n = isoWhiskerRight (shiftFunctorOpIso C n m h) F.op ≪≫
      NatIso.op (F.commShiftIso m).symm ≪≫
        isoWhiskerLeft F.op (shiftFunctorOpIso D n m h).symm := by
  obtain rfl : m = -n := by omega
  exact instCommShiftOpIntAux_iso F n
```

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 5]
```diff
@@ -0,0 +1,191 @@
...
+    Functor.commShiftIso (F := F.op) n = isoWhiskerRight (shiftFunctorOpIso C n m h) F.op ≪≫
+      NatIso.op (Functor.CommShift.iso (F := F) m).symm ≪≫
+        isoWhiskerLeft F.op (shiftFunctorOpIso D n m h).symm := by
+  ext
+  rw [@commShiftPullback_iso_eq Cᵒᵖ _ ℤ ℤ _ _  (AddMonoidHom.mk' (fun (n : ℤ) => -n)
+    (by intros; dsimp; omega)) (inferInstance : HasShift (OppositeShift C ℤ) ℤ)
+    (OppositeShift D ℤ) _ (inferInstance : HasShift (OppositeShift D ℤ) ℤ) F.op
+    (commShiftOp F ℤ) n m (eq_neg_of_add_eq_zero_right h)]
+  rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:52]: Instead of this lemma, it would be better to add the following more basic lemmas (which will facilitate some proofs below):
```lean
I think you should add these lemmas :
```lean
lemma op_commShiftIso_hom_app (X : Cᵒᵖ) (n m : ℤ) (h : n + m = 0):
    (F.op.commShiftIso n).hom.app X =
      (F.map ((shiftFunctorOpIso C n m h).hom.app X).unop).op ≫
        ((F.commShiftIso m).inv.app X.unop).op ≫
        (shiftFunctorOpIso D n m h).inv.app (op (F.obj X.unop)) := by
  obtain rfl : m = -n := by omega
  rfl

-- similarly `op_commShiftIso_inv_app` (which can be deduced from the one above)

lemma shift_map_op {X Y : C} (f : X ⟶ Y) (n : ℤ) :
    (F.map f).op⟦n⟧' = (F.op.commShiftIso n).inv.app _ ≫
      (F.map (f.op⟦n⟧').unop).op ≫ (F.op.commShiftIso n).hom.app _ :=
  (NatIso.naturality_1 (F.op.commShiftIso n) f.op).symm

lemma map_shift_unop {X Y : Cᵒᵖ} (f : X ⟶ Y) (n : ℤ) :
    F.map ((f⟦n⟧').unop) = ((F.op.commShiftIso n).inv.app Y).unop ≫
      ((F.map f.unop).op⟦n⟧').unop ≫ ((F.op.commShiftIso n).hom.app X).unop := by
  simp [shift_map_op]
```

Comment (smorel394) [reply Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean]: Some proofs lost their last `rfl` step after I did this.
I was only able to use `shift_map_op` and `map_shift_unop` in one proof.
The proof of `triangleOpEquivalence_functor_naturality` still timeouts if I'm not careful.

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 6]
```diff
@@ -0,0 +1,195 @@
...
+  letI : F'.CommShift ℤ := F.commShiftOp ℤ
+  apply F'.commShiftPullback
+
+end Pretriangulated.Opposite
+
+namespace Functor
+
+open Category Limits Pretriangulated Opposite
+
+lemma op_commShiftIso_hom_app (X : Cᵒᵖ) (n m : ℤ) (h : n + m = 0):
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:43]:
```suggestion
@[reassoc]
lemma op_commShiftIso_hom_app (X : Cᵒᵖ) (n m : ℤ) (h : n + m = 0):
```

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 7]
```diff
@@ -0,0 +1,195 @@
...
+    (F.op.commShiftIso n).hom.app X =
+      (F.map ((shiftFunctorOpIso C n m h).hom.app X).unop).op ≫
+        ((F.commShiftIso m).inv.app X.unop).op ≫
+        (shiftFunctorOpIso D n m h).inv.app (op (F.obj X.unop)) := by
+  obtain rfl : m = -n := by omega
+  rfl
+
+lemma op_commShiftIso_inv_app (X : Cᵒᵖ) (n m : ℤ) (h : n + m = 0):
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:51]:
```suggestion
@[reassoc]
lemma op_commShiftIso_inv_app (X : Cᵒᵖ) (n m : ℤ) (h : n + m = 0):
```

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 8]
```diff
@@ -0,0 +1,195 @@
...
+    (F.op.commShiftIso n).inv.app X =
+      (shiftFunctorOpIso D n m h).hom.app (op (F.obj X.unop)) ≫
+        ((F.commShiftIso m).hom.app X.unop).op ≫
+          (F.map ((shiftFunctorOpIso C n m h).inv.app X).unop).op
+         := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:56]:
```suggestion
          (F.map ((shiftFunctorOpIso C n m h).inv.app X).unop).op := by
```

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 9]
```diff
@@ -0,0 +1,195 @@
...
+  rw [← cancel_epi ((F.op.commShiftIso n).hom.app X), Iso.hom_inv_id_app,
+    op_commShiftIso_hom_app _ X n m h, assoc, assoc]
+  simp [← op_comp, ← F.map_comp]
+
+lemma shift_map_op {X Y : C} (f : X ⟶ Y) (n : ℤ) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:61]:
```suggestion
@[reassoc]
lemma shift_map_op {X Y : C} (f : X ⟶ Y) (n : ℤ) :
```

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 10]
```diff
@@ -0,0 +1,195 @@
...
+    (F.map f).op⟦n⟧' = (F.op.commShiftIso n).inv.app _ ≫
+      (F.map (f.op⟦n⟧').unop).op ≫ (F.op.commShiftIso n).hom.app _ :=
+  (NatIso.naturality_1 (F.op.commShiftIso n) f.op).symm
+
+lemma map_shift_unop {X Y : Cᵒᵖ} (f : X ⟶ Y) (n : ℤ) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:66]:
```suggestion
@[reassoc]
lemma map_shift_unop {X Y : Cᵒᵖ} (f : X ⟶ Y) (n : ℤ) :
```

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 11]
```diff
@@ -0,0 +1,195 @@
...
+      (opShiftFunctorEquivalence D n).unitIso.hom.app (F.op.obj X) ≫
+        (shiftFunctor D n).op.map (((F.op).commShiftIso n).inv.app X) ≫
+          ((F.commShiftIso n).hom.app _).op := by
+  rw [F.op_commShiftIso_inv_app _ _ _ (add_neg_cancel n)]
+  simp only [id_obj, op_obj, opShiftFunctorEquivalence, comp_obj, Iso.trans_hom, NatIso.op_hom,
+    isoWhiskerRight_hom, Iso.symm_hom, NatTrans.comp_app, NatTrans.op_app, whiskerRight_app, op_map,
+    unop_comp, Quiver.Hom.unop_op, map_comp, map_shiftFunctorCompIsoId_hom_app,
+    commShiftIso_hom_naturality_assoc, op_comp, assoc]
+  slice_rhs 2 3 => rw [← op_comp, ← Functor.map_comp, ← unop_comp, Iso.inv_hom_id_app]
+  simp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:82]: This lemma is difficult to `rw` because the LHS (and RHS) gets simplified by `dsimp`, because of the `F.op.map`. Basically, `F.op.map` should almost never appear in a lemma because if we do `dsimp` (which should be mostly safe), we would have to apply a lemma in the backward direction. I suggest this version, and similarly for some other lemmas below:
```suggestion
@[reassoc]
lemma map_opShiftFunctorEquivalence_unitIso_hom_app_unop (X : Cᵒᵖ) (n : ℤ) :
    F.map ((opShiftFunctorEquivalence C n).unitIso.hom.app X).unop =
      (F.commShiftIso n).hom.app _ ≫
        (((F.op).commShiftIso n).inv.app X).unop⟦n⟧' ≫
        ((opShiftFunctorEquivalence D n).unitIso.hom.app (op _)).unop := by
  dsimp [opShiftFunctorEquivalence]
  simp only [map_comp, unop_comp, Quiver.Hom.unop_op, assoc,
    map_shiftFunctorCompIsoId_hom_app, commShiftIso_hom_naturality_assoc,
    op_commShiftIso_inv_app _ _ _ _ (add_neg_cancel n)]
  congr 3
  rw [← Functor.map_comp_assoc, ← unop_comp,
    Iso.inv_hom_id_app]
  dsimp
  rw [map_id, id_comp]
```

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 12]
```diff
@@ -0,0 +1,195 @@
...
+    isoWhiskerRight_inv, Iso.symm_inv, NatIso.op_inv, NatTrans.comp_app, whiskerRight_app, op_map,
+    NatTrans.op_app, unop_comp, Quiver.Hom.unop_op, map_comp, map_shiftFunctorCompIsoId_inv_app,
+    assoc, op_comp, F.op_commShiftIso_hom_app _ _ _ (add_neg_cancel n)]
+  slice_rhs 4 5 => rw [← op_comp, ← Functor.map_comp, ← unop_comp, Iso.inv_hom_id_app]
+  simp only [op_obj, unop_id, map_id, op_id, id_comp]
+  slice_rhs 1 2 => rw [← op_comp]
+                   change ((F ⋙ shiftFunctor D n).map ((shiftFunctorOpIso C _ _
+                     (add_neg_cancel n)).hom.app X).unop ≫ (F.commShiftIso n).inv.app _).op
+                   rw [(F.commShiftIso n).inv.naturality]
+  simp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:98]:
```suggestion
@[reassoc]
lemma map_opShiftFunctorEquivalence_unitIso_inv_app_unop (X : Cᵒᵖ) (n : ℤ) :
    F.map ((opShiftFunctorEquivalence C n).unitIso.inv.app X).unop =
      ((opShiftFunctorEquivalence D n).unitIso.inv.app (op (F.obj X.unop))).unop ≫
        (((F.op).commShiftIso n).hom.app X).unop⟦n⟧' ≫
        ((F.commShiftIso n).inv.app _) := by
  rw [← cancel_mono (F.map ((opShiftFunctorEquivalence C n).unitIso.hom.app X).unop),
    ← F.map_comp, ← unop_comp, Iso.hom_inv_id_app,
    map_opShiftFunctorEquivalence_unitIso_hom_app_unop, assoc, assoc,
    Iso.inv_hom_id_app_assoc, ← Functor.map_comp_assoc, ← unop_comp]
  simp
```

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 13]
```diff
@@ -0,0 +1,195 @@
...
+
+lemma map_opShiftFunctorEquivalence_counit_hom_app (F : C ⥤ D) [F.CommShift ℤ] (X : Cᵒᵖ) (n : ℤ) :
+    F.op.map ((opShiftFunctorEquivalence C n).counitIso.hom.app X) = (F.op.commShiftIso n).hom.app _
+      ≫ (shiftFunctor Dᵒᵖ n).map ((F.commShiftIso n).inv.app _).op ≫
+        (opShiftFunctorEquivalence D n).counitIso.hom.app (F.op.obj X) := by
+  simp [F.op_commShiftIso_hom_app _ _ _ (add_neg_cancel n), opShiftFunctorEquivalence]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:104]:
```suggestion
@[reassoc]
lemma map_opShiftFunctorEquivalence_counitIso_hom_app_unop (X : Cᵒᵖ) (n : ℤ) :
    F.map ((opShiftFunctorEquivalence C n).counitIso.hom.app X).unop =
      ((opShiftFunctorEquivalence D n).counitIso.hom.app (op (F.obj X.unop))).unop ≫
        (((F.commShiftIso n).inv.app X.unop).op⟦n⟧').unop ≫
          ((F.op.commShiftIso n).hom.app (op (X.unop⟦n⟧))).unop := by
  apply Quiver.Hom.op_inj
  dsimp [opShiftFunctorEquivalence]
  rw [assoc, F.op_commShiftIso_hom_app_assoc _ _ _ (add_neg_cancel n), map_comp,
    map_shiftFunctorCompIsoId_inv_app_assoc, op_comp, op_comp_assoc, op_comp_assoc,
    NatTrans.naturality_assoc, op_map, Iso.inv_hom_id_app_assoc, Quiver.Hom.unop_op]
```

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 14]
```diff
@@ -0,0 +1,195 @@
...
+
+lemma map_opShiftFunctorEquivalence_counit_inv_app (F : C ⥤ D) [F.CommShift ℤ] (X : Cᵒᵖ) (n : ℤ) :
+    F.op.map ((opShiftFunctorEquivalence C n).counitIso.inv.app X) =
+      (opShiftFunctorEquivalence D n).counitIso.inv.app (F.op.obj X) ≫
+        (shiftFunctor Dᵒᵖ n).map ((F.commShiftIso n).hom.app _).op ≫
+          (F.op.commShiftIso n).inv.app _ := by
+  simp [F.op_commShiftIso_inv_app _ _ _ (add_neg_cancel n), opShiftFunctorEquivalence]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:111]:
```suggestion
lemma map_opShiftFunctorEquivalence_counitIso_inv_app_unop (X : Cᵒᵖ) (n : ℤ) :
    F.map ((opShiftFunctorEquivalence C n).counitIso.inv.app X).unop =
      ((F.op.commShiftIso n).inv.app (op (X.unop⟦n⟧))).unop ≫
        (((F.commShiftIso n).hom.app X.unop).op⟦n⟧').unop ≫
          ((opShiftFunctorEquivalence D n).counitIso.inv.app (op (F.obj X.unop))).unop := by
  rw [← cancel_epi (F.map ((opShiftFunctorEquivalence C n).counitIso.hom.app X).unop),
    ← F.map_comp, ← unop_comp, Iso.inv_hom_id_app,
    map_opShiftFunctorEquivalence_counitIso_hom_app_unop]
  dsimp
  simp only [map_id, assoc, Iso.unop_hom_inv_id_app_assoc, ← Functor.map_comp_assoc,
    ← unop_comp, Iso.inv_hom_id_app_assoc, ← unop_comp_assoc, ← op_comp,
    Iso.inv_hom_id_app]
  simp
```

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 15]
```diff
@@ -0,0 +1,195 @@
...
+    · simp only [Triangle.mk_obj₁, TriangleMorphism.comp_hom₁,
+      TriangleOpEquivalence.functor_map_hom₁, Triangle.mk_obj₃, Quiver.Hom.unop_op,
+      mapTriangle_map_hom₃, Triangle.homMk_hom₁, comp_id, mapTriangle_map_hom₁, op_map, id_comp]
+    · simp only [Triangle.mk_obj₂, TriangleMorphism.comp_hom₂,
+      TriangleOpEquivalence.functor_map_hom₂, Quiver.Hom.unop_op, mapTriangle_map_hom₂,
+      Triangle.homMk_hom₂, comp_id, op_map, id_comp]
+    · simp only [Triangle.mk_obj₃, TriangleMorphism.comp_hom₃,
+      TriangleOpEquivalence.functor_map_hom₃, Quiver.Hom.unop_op, mapTriangle_map_hom₃,
+      Triangle.homMk_hom₃, comp_id, op_map, id_comp]
+      rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:153]: In general, when `simp?` produces a long list of lemmas, it is advisable to do `dsimp; simp?` to reduce the length of the code (and the more relevant lemmas tend to be more visible in a shorter list). Also, for performance purposes, `dsimp; simp` tend to be much faster as compared to `simp` or `aesop_cat`. For complicated definitions, introducing some auxiliary definitions tend to increase the speed significantly:
```suggestion
@[simps!]
noncomputable def mapTriangleOpCompTriangleOpEquivalenceFunctorApp (T : Triangle C) :
    (triangleOpEquivalence D).functor.obj (op (F.mapTriangle.obj T)) ≅
      F.op.mapTriangle.obj ((triangleOpEquivalence C).functor.obj (op T)) :=
  Triangle.isoMk _ _ (Iso.refl _) (Iso.refl _) (Iso.refl _)
    (by dsimp; simp) (by dsimp; simp) (by
      dsimp
      simp only [map_comp, shift_map_op, map_id, comp_id, op_comp, op_unop,
        map_opShiftFunctorEquivalence_counitIso_inv_app_unop,
        opShiftFunctorEquivalence_inverse, opShiftFunctorEquivalence_functor,
        Quiver.Hom.op_unop, assoc, id_comp])
        
noncomputable def mapTriangleOpCompTriangleOpEquivalenceFunctor :
    F.mapTriangle.op ⋙ (triangleOpEquivalence D).functor ≅
      (triangleOpEquivalence C).functor ⋙ F.op.mapTriangle :=
  NatIso.ofComponents
    (fun T ↦ F.mapTriangleOpCompTriangleOpEquivalenceFunctorApp T.unop)
    (by intros; ext <;> dsimp <;> simp only [comp_id, id_comp])
```

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 16]
```diff
@@ -0,0 +1,195 @@
...
+noncomputable def triangleOpEquivalence_inverse_naturality :
+    F.op.mapTriangle ⋙ (triangleOpEquivalence D).inverse ≅
+      (triangleOpEquivalence C).inverse ⋙ F.mapTriangle.op :=
+  (Functor.leftUnitor _).symm ≪≫ isoWhiskerRight (triangleOpEquivalence C).counitIso.symm _
+  ≪≫ Functor.associator _ _ _ ≪≫ isoWhiskerLeft (triangleOpEquivalence C).inverse
+  (Functor.associator _ _ _).symm ≪≫ isoWhiskerLeft _ (isoWhiskerRight
+  (triangleOpEquivalence_functor_naturality F).symm _) ≪≫ isoWhiskerLeft
+  (triangleOpEquivalence C).inverse (Functor.associator _ _ _) ≪≫ isoWhiskerLeft
+  (triangleOpEquivalence C).inverse (isoWhiskerLeft _ (triangleOpEquivalence D).unitIso.symm) ≪≫
+  isoWhiskerLeft _ (Functor.rightUnitor _)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:168]: We have an API doing exactly that:
```suggestion
noncomputable instance :
    CatCommSq (F.mapTriangle.op) (triangleOpEquivalence C).functor
      (triangleOpEquivalence D).functor F.op.mapTriangle :=
  ⟨F.mapTriangleOpCompTriangleOpEquivalenceFunctor⟩

noncomputable instance :
    CatCommSq (F.op.mapTriangle) (triangleOpEquivalence C).inverse
      (triangleOpEquivalence D).inverse F.mapTriangle.op :=
  CatCommSq.vInv (F.mapTriangle.op) (triangleOpEquivalence C)
      (triangleOpEquivalence D) F.op.mapTriangle inferInstance

/--
If `F : C ⥤ D` commutes with shifts, this expresses the compatibility of `F.mapTriangle`
with the equivalences `Pretriangulated.triangleOpEquivalence` on `C` and `D`.
-/
noncomputable def opMapTriangleCompTriangleOpEquivalenceInverse :
    F.op.mapTriangle ⋙ (triangleOpEquivalence D).inverse ≅
      (triangleOpEquivalence C).inverse ⋙ F.mapTriangle.op :=
  CatCommSq.iso (F.op.mapTriangle) (triangleOpEquivalence C).inverse
      (triangleOpEquivalence D).inverse F.mapTriangle.op
```

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 17]
```diff
@@ -0,0 +1,195 @@
...
+
+/-- If `F` is triangulated, so is `F.op`.
+-/
+lemma isTriangulated_op [F.IsTriangulated] : F.op.IsTriangulated where
+  map_distinguished T dT := by
+    rw [mem_distTriang_op_iff, ← Functor.comp_obj, ← distinguished_iff_of_iso
+      ((triangleOpEquivalence_inverse_naturality F).app T).unop]
+    exact F.map_distinguished _ ((mem_distTriang_op_iff _).mp dT)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:187]: We may take advantage of definitional equalities here so as to avoid `← Functor.comp_obj`:
```suggestion
    rw [mem_distTriang_op_iff]
    exact Pretriangulated.isomorphic_distinguished _
      ((F.map_distinguished _ (unop_distinguished _ dT))) _ 
      (((opMapTriangleCompTriangleOpEquivalenceInverse F).symm.app T).unop)
```

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 18]
```diff
@@ -0,0 +1,216 @@
...
+    rw [Functor.id_obj, Opposite.unop_op (F.mapTriangle.obj T)] at this
+    rw [← this, Functor.comp_obj, ← mem_distTriang_op_iff, ← Functor.op_obj, ← Functor.comp_obj,
+      distinguished_iff_of_iso ((mapTriangleOpCompTriangleOpEquivalenceFunctor F).app
+      (Opposite.op T))]
+    apply F.op.map_distinguished
+    have := distinguished_iff_of_iso ((triangleOpEquivalence C).unitIso.app (Opposite.op T)).unop
+    rw [Functor.id_obj, Opposite.unop_op T] at this
+    rw [← this, Functor.comp_obj, ← mem_distTriang_op_iff] at dT
+    exact dT
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:213]: Could you add  a lemma `isTriangulated_iff_op : F.op.IsTriangulated ↔ F.IsTriangulated`?

Comment (smorel394) [reply Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:213]: I could.

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 19]
```diff
@@ -211,6 +211,11 @@ lemma isTriangulated_of_op [F.op.IsTriangulated] : F.IsTriangulated where
     rw [← this, Functor.comp_obj, ← mem_distTriang_op_iff] at dT
     exact dT
 
+/-- `F` is triangulated if and only if `F.op` is triangulated.
+-/
+lemma isTriangulated_iff_op : F.IsTriangulated ↔ F.op.IsTriangulated :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:216]: Could you make the `iff` in the other direction?

Comment (joelriou) [reply Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean:216]: Using `op_isTriangulated_iff` as the name.

**Comment by joelriou** [comment]
Thanks!

bors merge
